US08183246B2
Dissolve 1.00 g (3.0 mmol) 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine in 10 ml DMF and add 1.15 g (8.9 mmol) DIEA. Add 0.45 g (5.9 mmol) 3-aminopropanol and then heat the mixture over a period of 2 h to 120° C. After cooling, dilute the mixture with ethyl acetate and wash successively with dilute hydrochloric acid and saturated sodium chloride solution. Dry the organic phase over magnesium sulphate and concentrate by evaporation. Purify the residue by RP-HPLC (column: Gromsil 250 mm×30 mm, 10 μm; acetonitrile/water gradient: 0-3 min 5% acetonitrile, 3-50 min 5%→98% acetonitrile, 50-55 min 98% acetonitrile). 671 mg (60% of theor.) 3-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}propan-1-ol is obtained in the form of beige crystals.

reactant | 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine | 3.0 mmol, 1.00 g | ClC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2 | C19H13ClN2O2
reactant | DIEA | 8.9 mmol, 1.15 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-aminopropanol | 5.9 mmol, 0.45 g | NCCCO | C3H9NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}propan-1-ol | 671 mg, 60% | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)NCCCO)C2=CC=CC=C2 | C22H21N3O3
